US04801629
Preparation of Poly(BHDP-Adipate)
Into the resin cook apparatus described in Example 1 are charged dimethyl adipate (200 grams, 1.15 moles), BHDP (302 grams, 1.37 moles), and dibutyltin oxide (1.0 gram). The mixture is heated at 180° C. for 4 hours. A conversion of 93 percent is obtained based upon the methanol taken overhead. The tacky polyester has an average molecular weight of 1.974, an acid number of 2.4, and a hydroxyl number of 50.0.

reactant | dimethyl adipate | 1.15 moles, 200 grams | C(CCCCC(=O)OC)(=O)OC | C8H14O4
reactant | BHDP | 1.37 moles, 302 grams | COC1=C(C(=C(C=C1)CN2CCN(CC2)CC3=CC=CC=C3)O)OC | C20H26N2O3
reactant | dibutyltin oxide | 1.0 gram | C(CCC)[Sn](CCCC)=O
solvent | methanol | CO | CH4O
product | BHDP Adipate | COC1=C(C(=C(C=C1)CN2CCN(CC2)CC3=CC=CC=C3)O)OC.C(CCCCC(=O)[O-])(=O)[O-] | InChI=1S/C20H26N2O3.C6H10O4/c1-24-18-9-8-17(19(23)20(18)25-2)15-22-12-10-21(11-13-22)14-16-6-4-3-5-7-16;7-5(8)3-1-2-4-6(9)10/h3-9,23H,10-15H2,1-2H3;1-4H2,(H,7,8)(H,9,10)/p-2
